US07326791B2
rac.-N-[3-chloro-4-(2,5-dihydropyrrol-1-ylcarbonyl)phenyl]-2-(5-chloro-1H-indol-2-yl)acetamide
Prepared analogously to Example 1g from 2-(5-chloro-1H-indol-2-yl)acetic acid, TBTU, diisopropylethylamine, and 3-chloro-4-(2,5-dihydropyrrol-1-ylcarbonyl)phenylamine in tetrahydrofuran. Yield: 37%; Rf value: 0.34 (silica gel: dichloromethane/ethanol=95:5); C21H19Cl2N3O2 (416.306); mass spectrum: (M+H)+=416/418 (chlorine isotope).

reactant | 2-(5-chloro-1H-indol-2-yl)acetic acid | ClC=1C=C2C=C(NC2=CC1)CC(=O)O | C10H8ClNO2
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-chloro-4-(2,5-dihydropyrrol-1-ylcarbonyl)phenylamine | ClC=1C=C(C=CC1C(=O)N1CC=CC1)N | C11H11ClN2O
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | rac.-N-[3-chloro-4-(2,5-dihydropyrrol-1-ylcarbonyl)phenyl]-2-(5-chloro-1H-indol-2-yl)acetamide | Yield: 37% | ClC=1C=C(C=CC1C(=O)N1CC=CC1)NC(CC=1NC2=CC=C(C=C2C1)Cl)=O | C21H17Cl2N3O2
